US09108969B2
Step C: Preparation of 4-(Chloromethyl)-1-isopropoxy-2-(trifluoromethyl)benzene
To a solution of (4-isopropoxy-3-(trifluoromethyl)phenyl)methanol (11.27 mmol) in toluene (20 mL) was added thionyl chloride (67.7 mmol). The reaction was stirred at 75° C. for 3 h. The mixture was diluted with hexanes, washed with water (twice), saturated NaHCO3, dried over MgSO4, and filtered. The solvent was removed under vacuum to give the title compound as an oil (10.4 mmol). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29 (d, J=6.06 Hz, 6H), 4.75-4.85 (m, 3H), 7.30 (d, J=8.46 Hz, 1H), 7.63-7.70 (m, 2H).

reactant | (4-isopropoxy-3-(trifluoromethyl)phenyl)methanol | 11.27 mmol | C(C)(C)OC1=C(C=C(C=C1)CO)C(F)(F)F | C11H13F3O2
reactant | thionyl chloride | 67.7 mmol | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Chloromethyl)-1-isopropoxy-2-(trifluoromethyl)benzene | 10.4 mmol | ClCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F | C11H12ClF3O
